US06620962B2
30 g of N-butyryl-o-toluidine and 150 g of glacial acetic acid were initially charged at 30° C. A solution of 33 g of bromine in 66 g of glacial acetic acid was added with stirring and then stirring was continued at from 25 to 30° C. for 1 hour. 300 ml of water were then added to the reaction mixture which, after continued stirring for a short time, was filtered, the crystals were washed with water and dried under reduced pressure. 42.5 g (98% yield) of N-(4-bromo-2-methylphenyl)butanamide were obtained in 99.4% purity.

reactant | N-butyryl-o-toluidine | 30 g | C(CCC)(=O)NC=1C(=CC=CC1)C | C11H15NO
reactant | bromine | 33 g | BrBr | Br2
reactant | water | 300 ml | O | H2O
solvent | acetic acid | 66 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 150 g | C(C)(=O)O | C2H4O2
product | N-(4-bromo-2-methylphenyl)butanamide | 42.5 g, 98% yield | BrC1=CC(=C(C=C1)NC(CCC)=O)C | C11H14BrNO
